US05371001
Synthesis of 3-methyl-l,4-dioxane-2,5-dione
2-Methoxy-2-oxoethyl lactate (123 mg, 0.76 mmol), prepared as described in Example 1, was added to 25 mL of refluxing toluene containing (1S)-(+)-10-camphor-sulfonic acid (8.8 mg, 0.038 mmol). The refluxing toluene was made to pass through ca. 8 mL of crushed molecular sieves (type 4A) before returning to the reaction vessel. After 6 hr, the reaction mixture was cooled to room temperature, applied to a 40 mL silica gel column equilibrated in toluene and eluted with ethyl acetate. The ethyl acetate was evaporated and the title compound was identified as a component of the recovered material by GC (Method A) and GC/MS: HRMS calcd for C5H6O4 130.0266, obsd 130.0265.

reactant | 2-Methoxy-2-oxoethyl lactate | 0.76 mmol, 123 mg | C(C(O)C)(=O)OCC(=O)OC | C6H10O5
reactant | (1S)-(+)-10-camphor-sulfonic acid | 0.038 mmol, 8.8 mg | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 3-methyl-l,4-dioxane-2,5-dione | CC1C(OCC(O1)=O)=O | C5H6O4
